* MODELLING FOR STGP20NC60V
 
.SUBCKT STGP20NC60V 1 2 3
LG 10 2 7.5E-09
LE 3 15 7.5E-09
LC 13 1 4.5E-09
RG 10 5 1.9
RC 14 13 0.679E-03
RE 15 12 0.176E-02
RF 7 10 1MEG
RX 4 14 799.975
CGE 12 5 0.212E-08
CCG 17 4 0.435E-08
CK 16 4  0.187E-10
DCG 12 11 DG
Q1 12 11 14 Q
M1 11 5 12 12 MOS
E1 16 5 8 7 1
E2 17 5 6 7 1
G1 7 9 11 10 1u
D1  8 9 DI
D2  9 6 DI
D3 16 4 DO
R1 7 8 1MEG
R2 7 6 1MEG
.ENDS STGP20NC60V
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 5.734
+ KP    = 16.995
+ THETA = 0.181
 
.MODEL Q PNP
+ IS    = 0.101E-15
+ VAF   = 100.760
+ BF    = 0.258
+ NE    = 1.379
+ ISE   = 0.497E-15
+ IKF   = 0.451
+ BR    = 0.944E-02
+ NC    = 1.639
+ NK    = 0.315
+ TF    = 1E-06
+ ITF   = 1
+ VTF   = 10
+ XTF   = 0.1
 
.MODEL DI D
+ IS    = 0.01E-12
+ RS    = 0
 
.MODEL DO D
+ IS    = 0.01E-12
+ CJO   = 50E-12
+ VJ    = 0.75
+ M     = 0.35
 
.MODEL DG D
+ IS    = 0.01E-12
+ BV    = 665
+ VJ    = 0.75
+ M     = 0.35
 
* END OF MODELLING
